US06653499B1
A mixture of 13 g 1,2,3-tris(10-[tetrahydropyranyloxy]decyloxy)propane, 1 g bis(trimethylsilyl)sulphate and 250 ml methanol is stirred at room temperature for 2 hours. The reaction mixture is evaporated down. The residue is purified by column chromatography on silica gel using hexane/ethyl acetate (1/1 v/v) as eluent and recrystallisation from acetonitrile to yield 7.1 g of 1,2,3-tris(10-hydroxydecyloxy)propane.

reactant | 1,2,3-tris(10-[tetrahydropyranyloxy]decyloxy)propane | 13 g | O1C(CCCC1)OCCCCCCCCCCOCC(COCCCCCCCCCCOC1OCCCC1)OCCCCCCCCCCOC1OCCCC1 | C48H92O9
reactant | bis(trimethylsilyl)sulphate | 1 g | C[Si](C)(C)OS(=O)(=O)O[Si](C)(C)C | C6H18O4SSi2
solvent | methanol | 250 ml | CO | CH4O
product | 1,2,3-tris(10-hydroxydecyloxy)propane | 7.1 g | OCCCCCCCCCCOCC(COCCCCCCCCCCO)OCCCCCCCCCCO | C33H68O6
